US07893060B2
5-Chloro-2-(cis-3,5-dimethyl-piperazin-1-ylmethyl)-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidine
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using cis-2,6-dimethyl-piperazine in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a pale yellow solid (32 mg, 42%).

reactant | 5-(5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C21H29ClN6O3S
reactant | cis-2,6-dimethyl-piperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
product | 5-Chloro-2-(cis-3,5-dimethyl-piperazin-1-ylmethyl)-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=N2)CN2C[C@H](N[C@H](C2)C)C)N2CCOCC2 | C16H23ClN6OS
